** sch_path: /home/anton/projects/tt-vga-fun/xschem/04-csdac1.sch
**.subckt 04-csdac1
V1 vcc GND 1.8
Vg G GND 0
XMprog net1 G GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMmirror net1 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.15 W=11.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 net2 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.15 W=8.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vs1 net2 GND 0
XM2 net3 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.15 W=4.44 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vs2 net3 GND 0
XM3 net4 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.15 W=2.19 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vs3 net4 GND 0
XM4 net5 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.15 W=0.99 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vs4 net5 GND 0
XM5 net6 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.2 W=2.4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vs5 net6 GND 0
XM6 net7 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.25 W=2.65 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vs6 net7 GND 0
XM7 net8 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.3 W=2.45 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vs7 net8 GND 0
XM8 net9 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.4 W=2.8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vs8 net9 GND 0
**** begin user architecture code



.DC Vg 0 1.8 0.01

*.param GW     = 0.5
*.param GL     = 0.15

.options savecurrents
.control

  let gwstart = 0.5
  let gwstep  = 0.05
  let gwi     = gwstart

  repeat 1
    set gwvar=$&gwi
    *echo Gate width = $gwvar
    *alterparam GW = $gwvar
    save all
    run
    write 04.raw G i(Vs1) i(Vs2) i(Vs3) i(Vs4) i(Vs5) i(Vs6) i(Vs7) i(Vs8)
    *+ i(Vs0p15) i(Vs0p25) i(Vs0p35) i(Vs0p50)
    *set appendwrite
    *reset
    *let gwi = gwi + gwstep
  end

.endc




.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/anton/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends
.GLOBAL GND
.end
